US06908931B2
1-(2-p-fluorophenylethyl)-6,7-methylenedioxy-1,2,3,4-tetrahydroisoquinoline.
A solution of 1-(2-p-fluorophenylethyl)-6,7-methylenedioxy-3,4-dihydroisoquinoline (0.78 g, 2.67 mmol) in methanol (7 ml) was treated with sodium borohydride (0.30 g, 8.01 mmol) and heated at reflux for two hours. The mixture was cooled and evaporated. The residue was mixed with 1N sodium hydroxide and ethyl acetate and extracted into ethyl acetate. The pooled extracts were washed with saturated sodium chloride, dried, and evaporated to a pale yellow oil (0.56 g, 70%). 1H NMR (CDCl3) δ 7.18 (m, 2 H); 6.97 (m, 2 H); 6.58 (m, 2 H), 5.88 (s, 2 H); 3.90 (m, 1 H); 3.21 (m, 1 H); 2.99 (m, 1 H); 2.81-2.62 (m, 4 H); 2.06 (m, 2 H). HPLC-MS (C-18, methanol/water/TFA linear gradient elution, 5 ml/min, 220 nm) single peak at 1.13 min; MS (ES+) obsd m/z=299.87.

reactant | 1-(2-p-fluorophenylethyl)-6,7-methylenedioxy-3,4-dihydroisoquinoline | 2.67 mmol, 0.78 g | FC1=CC=C(C=C1)CCC1=NCCC2=CC3=C(C=C12)OCO3 | C18H16FNO2
reactant | sodium borohydride | 8.01 mmol, 0.30 g | [BH4-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | 1-(2-p-fluorophenylethyl)-6,7-methylenedioxy-1,2,3,4-tetrahydroisoquinoline | FC1=CC=C(C=C1)CCC1NCCC2=CC3=C(C=C12)OCO3 | C18H18FNO2
